US07348359B2
3,5-Diisopropyl-2-methoxymethoxy-phenyl-boronic acid (455 mg, 1.83 mmol), followed by tetrakis(triphenylphosphine)palladium(0) (191 mg, 0.16 mmol), and 2M sodium carbonate solution (3.31 ml, 3.32 mmol) were added to a solution of 3-iodo-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester (500 mg, 1.66 mmol) in toluene (10 mL). This reaction was then heated to 80° C. overnight, then cooled to ambient temperature and partitioned between brine (10 mL) and ethyl acetate (50 mL). The organic layer was dried over MgSO4 and evaporated to a residue. The residue was purified by silica gel chromatography (5% MeOH in dichlorometlane) to yield 3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester as a yellow solid (411 mg, 65%). 1H NMR (250 MHz, CDCl3): δ 8.71 (s, 1H), 7.70 (m, 1H), 7.62 (m, 1H), 7.41 (m 1H), 7.19 (d, 1H, J=1.2), 7.08 (d, 1H, J=1.2), 3.85 (s, 3H), 3.38 (m, 1H), 3.29 (q, 2H, J=6.8),2.90 (m, 1H), 1.28 (s, 3H), 1.26 (s, 6H), 1.24 (s, 3H), 0.75 (t, 3H, J=6.8). MS [EI+] 381 (M+H)+.

reactant | 3,5-Diisopropyl-2-methoxymethoxy-phenyl-boronic acid | 1.83 mmol, 455 mg | C(C)(C)C=1C(=C(C=C(C1)C(C)C)B(O)O)OCOC | C14H23BO4
reactant | sodium carbonate | 3.32 mmol, 2M, 3.31 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-iodo-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 1.66 mmol, 500 mg | COC(=O)C=1C=CC=2N(C1)C(=CN2)I | C9H7IN2O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.16 mmol, 191 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-ethoxy-3,5-diisopropyl-phenyl)-imidazo[1,2-a]pyridine-6-carboxylic acid methyl ester | 411 mg, 65% | COC(=O)C=1C=CC=2N(C1)C(=CN2)C2=C(C(=CC(=C2)C(C)C)C(C)C)OCC | C23H28N2O3
